US08710223B2
A mixture of CF3CO2H (0.98 mL, 12.65 mmol, 0.9 eq), PPh3 (9.21 g, 35.13 mmol, 2.5 eq) and Et3N (1.96 mL, 14.05 mmol, 1.0 eq), in 25 mL CCl4 was stirred at 0° C. for 10 minutes. 2-cyclopropyl-5-nitrobenzeneamine (2.50 g, 14.05 mmol, 1.0 eq) was then added to the reaction mixture and the mixture was heated to reflux for 12 hours. Solvent was removed under reduced pressure and the residue was purified by column chromatography, eluting with n-hexane:ethyl acetate (10:1), giving the (Z)—N-(1-chloro-2,2,2-trifluoroethylidene)-2-cyclopropyl-5-nitrobenzenamine intermediate in semi pure form as a light yellow solid. This compound was taken to the next step with out further purification.

reactant | CF3CO2H | 12.65 mmol, 0.98 mL, 0.9 eq | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | PPh3 | 35.13 mmol, 9.21 g, 2.5 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Et3N | 14.05 mmol, 1.96 mL, 1.0 eq | CCN(CC)CC | C6H15N
reactant | 2-cyclopropyl-5-nitrobenzeneamine | 14.05 mmol, 2.50 g, 1.0 eq | C1(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])N | C9H10N2O2
reactant | CCl4 | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (Z)—N-(1-chloro-2,2,2-trifluoroethylidene)-2-cyclopropyl-5-nitrobenzenamine | Cl\C(\C(F)(F)F)=N/C1=C(C=CC(=C1)[N+](=O)[O-])C1CC1 | C11H8ClF3N2O2
